US06251926B1
Aluminium chloride (2.58 g) was added to a mixture of methyl 8-chloro-8-oxooctanoate (2.00 g) and anisole (5 ml) at 0° C. After stirring at room temperature for 14 hours, the reaction mixture was poured onto ice (50 g), stirred at room temperature for 1 hour and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain methyl 8-(4-methoxyphenyl)-8-oxooctanoate (2.37 g, yield 88%) as crystals. The crystals were recrystallized from ethyl acetate-hexane to obtain colorless crystals. m.p. 57-58° C.

reactant | Aluminium chloride | 2.58 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | methyl 8-chloro-8-oxooctanoate | 2.00 g | ClC(CCCCCCC(=O)OC)=O | C9H15ClO3
reactant | anisole | 5 ml | C1(=CC=CC=C1)OC | C7H8O
product | methyl 8-(4-methoxyphenyl)-8-oxooctanoate | 2.37 g, yield 88% | COC1=CC=C(C=C1)C(CCCCCCC(=O)OC)=O | C16H22O4
